US07511041B2
A mixture of 2-(1H-imidazol-2-yl)aniline (60.0 mg, 0.38 mmol), ethyl3-oxo-3-(2-thienyl)propanoate (74.7 mg, 0.38 mmol) and p-tolenesulfonicacid monohydrate (36.1 mg, 0.19 mmol) in toluene (30 ml) was heated at reflux for 2 hours. After cooling to room temperature, the reaction mixture was poured into aqueous saturate NaHCO3 solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on silica-gel (ethyl acetate/hexane, 2/3-1/1) to give (Z)-2-imidazo[1,2-c]quinazolin-5-yl-1-(2-thienyl)ethenol (37.0 mg, 33% yeild) as a yellow powder.

reactant | 2-(1H-imidazol-2-yl)aniline | 0.38 mmol, 60.0 mg | N1C(=NC=C1)C1=C(N)C=CC=C1 | C9H9N3
reactant | ethyl3-oxo-3-(2-thienyl)propanoate | 0.38 mmol, 74.7 mg | C(C)OC(CC(C=1SC=CC1)=O)=O | C9H10O3S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-2-imidazo[1,2-c]quinazolin-5-yl-1-(2-thienyl)ethenol | 37.0 mg, 33% | N=1C=CN2C(=NC=3C=CC=CC3C21)\C=C(/O)\C=2SC=CC2 | C16H11N3OS
